US07569588B2
N-(5-Methylaminopentyl)phthalimide
To a solution of N-(5-bromopentyl)phthalimide (5 g, 16.9 mmol) in ACN (50 mL) was added N-benzylmethylamine (2.04 g, 16.9 mmol), followed by DIPEA (2.93 mL, 16.9 mmol). The reaction mixture was stirred at 50° C. for 3 hours and then the solvent was removed in vacuo. The residue was dissolved in DCM (100 mL), washed with brine (100 mL), dried over magnesium sulfate, filtered and concentrated. The residue was dissolved in MeOH (100 mL) and hydrogenated to remove the benzyl group using palladium on activated carbon (1 g, 10 wt. % (dry basis)) as a catalyst under a hydrogen gas balloon at room temperature overnight. The mixture was filtered through Celite and the solvent was removed in vacuo to yield 4.2 g of the title intermediate as a solid.

reactant | N-(5-bromopentyl)phthalimide | 16.9 mmol, 5 g | BrCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C13H14BrNO2
reactant | N-benzylmethylamine | 16.9 mmol, 2.04 g | C(C1=CC=CC=C1)CN | C8H11N
reactant | DIPEA | 16.9 mmol, 2.93 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | ACN | 50 mL | C(C)#N | C2H3N
product | N-(5-Methylaminopentyl)phthalimide | 4.2 g | CNCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C14H18N2O2
